US07728155B2
To a suspension of potassium carbonate (23.49 g, 0.170 mol) in N,N-dimethylformamide (350 mL) was added indan-4-ol (7.60 g, 0.057 mol) followed by allyl bromide (8.22 g, 0.068 mol) and the reaction mixture was allowed to stir at room temperature for 12 h. The reaction mixture was diluted with water (1000 mL) to dissolve any solids and extracted with diethyl ether (3×250 mL). The combined organic layers were washed with water (4×500 mL), aqueous sodium chloride (400 mL), dried (magnesium sulfate) and the solvent was removed in vacuo to give 4-(allyloxy)indane. The allyl ether was dissolved in mesitylene (40 mL) and heated at reflux for 8 h. Removal of the solvent in vacuo provided 5-allylindan-4-ol, which was re-dissolved in N,N-dimethylformamide (250 mL). Potassium carbonate (14.28 g, 0.103 mol), benzyl bromide (6.48 g, 0.038 mol), and tetrabutylammonium iodide (2.54 g, 0.007 mol) were added to the reaction mixture. The reaction mixture was allowed to stir at room temperature for 12 h. The reaction mixture was diluted with water (1000 mL) to dissolve any solids and extracted with diethyl ether (3×250 mL). The combined organic layers were washed with water (4×500 mL), aqueous sodium chloride (400 mL), dried (magnesium sulfate) and the solvent was removed in vacuo to give a crude oil. Purification by flash column chromatography (silica, ethyl acetate:hexanes 1:9) provided 10.22 g (68%) of 5-allyl-2,3-dihydro-1H-inden-4-yl benzyl ether as a pale yellow oil. Rf=0.45 (silica, ethyl acetate:hexanes 1:19); Anal. calcd. for C19H20O: C, 86.32; H, 7.63. Found: C, 85.90; H, 7.49.

reactant | potassium carbonate | 0.170 mol, 23.49 g | C([O-])([O-])=O.[K+].[K+]
reactant | indan-4-ol | 0.057 mol, 7.60 g | C1CCC=2C(=CC=CC12)O | C9H10O
reactant | allyl bromide | 0.068 mol, 8.22 g | C(C=C)Br | C3H5Br
solvent | N,N-dimethylformamide | 350 mL | CN(C=O)C | C3H7NO
solvent | water | 1000 mL | O | H2O
product | 4-(allyloxy)indane | C(C=C)OC1=C2CCCC2=CC=C1 | C12H14O
